US08378108B2
A solution of isopropyl 6-(2-hydroxypropan-2-yl)-3,4′-bipyridine-2′-carboxylate (140 mg, 0.47 mmol) in 1 M hydrochloric acid (2 mL) was heated at 100° C. overnight. The solvent was removed under reduced pressure to give 6-(2-hydroxypropan-2-yl)-3,4′-bipyridine-2′-carboxylic acid hydrochloride salt as a white powder (106 mg, 87%). 259.1 (M+1).

reactant | isopropyl 6-(2-hydroxypropan-2-yl)-3,4′-bipyridine-2′-carboxylate | 0.47 mmol, 140 mg | OC(C)(C)C1=CC=C(C=N1)C1=CC(=NC=C1)C(=O)OC(C)C | C17H20N2O3
reactant | hydrochloric acid | 1 M, 2 mL | Cl | ClH
product | 6-(2-hydroxypropan-2-yl)-3,4′-bipyridine-2′-carboxylic acid hydrochloride salt | 106 mg, 87% | Cl.OC(C)(C)C1=CC=C(C=N1)C1=CC(=NC=C1)C(=O)O | InChI=1S/C14H14N2O3.ClH/c1-14(2,19)12-4-3-10(8-16-12)9-5-6-15-11(7-9)13(17)18;/h3-8,19H,1-2H3,(H,17,18);1H
